Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O[C:1](=[O:2])[c:3]1[cH:4][cH:5][c:6](-[c:7]2[cH:8][n:9]3[c:10]([I:11])[cH:12][n:13][c:14]3[cH:15][n:16]2)[cH:17][cH:18]1.[CH2:19]1[CH2:20][O:21][CH2:22][CH2:23][NH:24]1>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][c:6](-[c:7]2[cH:8][n:9]3[c:10]([I:11])[cH:12][n:13][c:14]3[cH:15][n:16]2)[cH:17][cH:18]1)[N:24]1[CH2:19][CH2:20][O:21][CH2:22][CH2:23]1,[OH:101][C:1](=[O:2])[c:3]1[cH:4][cH:5][c:6](-[c:7]2[cH:8][n:9]3[c:10]([I:11])[cH:12][n:13][c:14]3[cH:15][n:16]2)[cH:17][cH:18]1.[CH2:19]1[CH2:20][O:21][CH2:22][CH2:23][NH:24]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][c:6](-[c:7]2[cH:8][n:9]3[c:10]([I:11])[cH:12][n:13][c:14]3[cH:15][n:16]2)[cH:17][cH:18]1)[N:24]1[CH2:19][CH2:20][O:21][CH2:22][CH2:23]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (24, 1), ([1, 2], 2), (303, 24.1), ([24.1, 24], 24), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=C(O[OH:1])c1cccc(Cl)c1.[CH3:2][S:3][c:4]1[n:5][cH:6][cH:7][c:8](-[c:9]2[c:10]([CH2:11][CH:12]([CH3:13])[CH3:14])[n:15][n:16]3[cH:17][cH:18][cH:19][cH:20][c:21]23)[n:22]1>>[O:1]=[S:3]([CH3:2])[c:4]1[n:5][cH:6][cH:7][c:8](-[c:9]2[c:10]([CH2:11][CH:12]([CH3:13])[CH3:14])[n:15][n:16]3[cH:17][cH:18][cH:19][cH:20][c:21]23)[n:22]1,[CH3:2][S:3][c:4]1[n:5][cH:6][cH:7][c:8](-[c:9]2[c:10]([CH2:11][CH:12]([CH3:13])[CH3:14])[n:15][n:16]3[cH:17][cH:18][cH:19][cH:20][c:21]23)[n:22]1.[O:202]=[C:201]([O:101][OH:1])c1cccc(Cl)c1>>[O:1]=[S:3]([CH3:2])[c:4]1[n:5][cH:6][cH:7][c:8](-[c:9]2[c:10]([CH2:11][CH:12]([CH3:13])[CH3:14])[n:15][n:16]3[cH:17][cH:18][cH:19][cH:20][c:21]23)[n:22]1,sulfide_oxidation,"[(3, 1), ([1, 101], [101, 201]), ([201, 202], 1.1), ([1.1, 1], 1), (1, [1, 3])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([C@:2]([C@H:3]([c:4]1[c:5]([O:6][CH3:7])[cH:8][cH:9][cH:10][cH:11]1)[c:12]1[cH:13][cH:14][cH:15][c:16]2[cH:17][cH:18][cH:19][cH:20][c:21]12)([CH3:22])[C:23]#[N:24])=[O:25].[CH2:38]1[CH2:37][N:28]([CH2:29][CH2:30][N:31]2[CH2:32][CH2:33][O:34][CH2:35][CH2:36]2)[CH2:27][CH2:26][NH:39]1>>[C:1]([C@:2]([C@H:3]([c:4]1[c:5]([O:6][CH3:7])[cH:8][cH:9][cH:10][cH:11]1)[c:12]1[cH:13][cH:14][cH:15][c:16]2[cH:17][cH:18][cH:19][cH:20][c:21]12)([CH3:22])[C:23]#[N:24])(=[O:25])[N:39]1[CH2:26][CH2:27][N:28]([CH2:29][CH2:30][N:31]2[CH2:32][CH2:33][O:34][CH2:35][CH2:36]2)[CH2:37][CH2:38]1,[OH:101][C:1]([C@:2]([C@H:3]([c:4]1[c:5]([O:6][CH3:7])[cH:8][cH:9][cH:10][cH:11]1)[c:12]1[cH:13][cH:14][cH:15][c:16]2[cH:17][cH:18][cH:19][cH:20][c:21]12)([CH3:22])[C:23]#[N:24])=[O:25].[CH2:26]1[CH2:27][N:28]([CH2:29][CH2:30][N:31]2[CH2:32][CH2:33][O:34][CH2:35][CH2:36]2)[CH2:37][CH2:38][NH:39]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([C@:2]([C@H:3]([c:4]1[c:5]([O:6][CH3:7])[cH:8][cH:9][cH:10][cH:11]1)[c:12]1[cH:13][cH:14][cH:15][c:16]2[cH:17][cH:18][cH:19][cH:20][c:21]12)([CH3:22])[C:23]#[N:24])(=[O:25])[N:39]1[CH2:26][CH2:27][N:28]([CH2:29][CH2:30][N:31]2[CH2:32][CH2:33][O:34][CH2:35][CH2:36]2)[CH2:37][CH2:38]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (39, 1), ([1, 25], 25), (303, 39.1), ([39.1, 39], 39), (25, [25, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(C)(C)OC(=O)[N:1]1[CH2:2][CH2:3][O:4][C:5]2([CH2:6][N:7]([CH2:8][CH2:9][c:10]3[cH:11][cH:12][cH:13][c:14]([CH2:15][CH2:16][OH:17])[cH:18]3)[CH2:19]2)[CH2:20]1>>[NH:1]1[CH2:2][CH2:3][O:4][C:5]2([CH2:6][N:7]([CH2:8][CH2:9][c:10]3[cH:11][cH:12][cH:13][c:14]([CH2:15][CH2:16][OH:17])[cH:18]3)[CH2:19]2)[CH2:20]1,[CH3:202][C:203]([CH3:204])([CH3:205])[O:206][C:101](=[O:201])[N:1]1[CH2:2][CH2:3][O:4][C:5]2([CH2:6][N:7]([CH2:8][CH2:9][c:10]3[cH:11][cH:12][cH:13][c:14]([CH2:15][CH2:16][OH:17])[cH:18]3)[CH2:19]2)[CH2:20]1.[H+:301]>>[NH:1]1[CH2:2][CH2:3][O:4][C:5]2([CH2:6][N:7]([CH2:8][CH2:9][c:10]3[cH:11][cH:12][cH:13][c:14]([CH2:15][CH2:16][OH:17])[cH:18]3)[CH2:19]2)[CH2:20]1,Boc_deprotection,"[(201, 301), ([203, 206], [206, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1), ([202.1, 202], [202, 203])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
